Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Cellulitis
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o M with hx of poorly-controlled DMII presents for eval 
from ___ for worsening LLE cellulitis x5 days. Endorses feeling 
"blah and out of it" last week, subsequently seen in f/u by 
Podiatry for right foot ulcer x2, started on po clindamycin at 
that time. Patient then noted left lower extremity redness and 
tenderness over next couple of days, seen in f/u on ___ and 
continued on clinda for presumed cellulitis. Seen once again 
today with persistence of LLE redness, warmth, and tenderness, 
along with glucose elevated to 500, admitted for IV antibiotics. 
Of note, he reports that he was mitsakenly only taking 1 pill of 
the clinda TID though it is written for 3 pills TID (for 450mg 
po TID), and he also reports drinking a large amount of gatorade 
prior to his admission.
Patient denies any fevers, chills, CP, palpitations, SOB, cough, 
abdominal pain, nausea, vomiting, diarrhea, or any other 
complaints.
In the ED, initial vitals 98.2 97 180/96 16 98%. Received dose 
of vancomycin and imipenem empirically along with 10 units 
regular insulin IV for critical FSBG to 500.
On arrival to the floor, VS 97.7 150/89 94 16 100%RA
Patient comfortable and denies any new complaints.
REVIEW OF SYSTEMS:
Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.
All other 10-system review negative in detail. 
 
Past Medical History:
PMH:
- DM Type II with neuropathy
- Hypertension
- Hypercholesterolemia
- Obesity

PSH:
- Appendectomy
 
Social History:
___
Family History:
Father  ___ - Type II 
Mother  Cancer - ___ Hyperlipidemia
 
Physical Exam:
ADMISSION:
VS - 97.7 150/89 94 16 100%RA
General: well-developed, well-nourished, overweight middle-aged 
male lying comfortably in bed in NAD, interactive, appropriate
HEENT: anicteric sclerae, MM moist and pink
Neck: supple, no JVP appreciated
CV: normal rate, regular rhythm, no m/r/g
Lungs: CTAB
Abdomen: soft, NT, ND, NABS
Ext: LLE with notable erythema, warmth, and mild tenderness 
extending from proximal foot to mid-calf, outlined in marker, no 
open sores or drainage. right foot wrapped with ulceration on 
plantar aspect over distal aspect, dried fibrinous exudate over 
base of ulcer, no tenderness, no surrounding erythema
Neuro: stable distal decreased sensation to light touch in ___ 

___:
VS - 98.2 162/96 88 18 97%RA
General: well-developed, well-nourished, overweight middle-aged 
male lying comfortably in bed in NAD, interactive, appropriate
HEENT: anicteric sclerae, MM moist and pink
Neck: supple, no JVP appreciated
CV: normal rate, regular rhythm, no m/r/g
Lungs: CTAB
Abdomen: soft, NT, ND, NABS
Ext: LLE with slightly improved erythema receding from marked 
borders, still with mild warmth and tenderness extending from 
proximal foot to mid-calf, no open sores or drainage. right foot 
wrapped with ulceration on plantar aspect over distal aspect, 
stable dried fibrinous exudate partially over base of ulcer, no 
tenderness, no surrounding erythema. DP pulses 2+ bilaterally.
Neuro: stable distal decreased sensation to light touch in ___ 
 
___ Results:
ADMISSION:

___ 01:25PM BLOOD WBC-12.7* RBC-4.09* Hgb-11.3* Hct-33.9* 
MCV-83 MCH-27.5 MCHC-33.3 RDW-13.9 Plt ___
___ 01:25PM BLOOD Neuts-78.4* Lymphs-13.5* Monos-5.7 
Eos-1.6 Baso-0.8
___ 01:25PM BLOOD Glucose-512* UreaN-32* Creat-1.7* Na-129* 
K-4.8 Cl-92* HCO3-25 AnGap-17
___ 02:10PM BLOOD Lactate-2.4*

DISCHARGE:

___ 07:25AM BLOOD WBC-11.0 RBC-3.61* Hgb-10.2* Hct-29.5* 
MCV-82 MCH-28.2 MCHC-34.5 RDW-14.1 Plt ___
___ 07:25AM BLOOD Glucose-129* UreaN-20 Creat-1.3* Na-136 
K-4.8 Cl-101 HCO3-27 AnGap-13
___ 07:25AM BLOOD Calcium-8.9 Phos-4.2 Mg-2.0

URINE:

___ 02:21PM URINE Color-Straw Appear-Clear Sp ___
___ 02:21PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-1000 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 02:21PM URINE RBC-<1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0

___ 1:35 pm BLOOD CULTURE      #2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH
 
Brief Hospital Course:
___ y/o M with hx of poorly-controlled DMII and right foot ulcers 
presenting with LLE cellulitis persisting after underdosing his 
oral clindamycin.

ACTIVE ISSUES:

# Cellulitis: Improved on IV vancomycin. Cellulitis was likely 
undertreated on his  oral clindamycin therapy given that he was 
only taking ___ of the prescribed dose mistakenly. Given his 
clinical stability and improvement in LLE cellulitis, he was 
transitioned to po doxycycline for course of ___ additional days 
with continued improvement of cellulitis prior to discharge.

# Right foot ulcers: Stable based on exam and recent podiatry 
note. Maintained wrapped in gauze and with pressure-relieving 
pad in place on foot. No change in ulcer that would necessitate 
inpatient podiatry consult. Follow-up as outpatient with 
podiatry.

# Hyponatremia: Falsely decreased due to marked hyperglycemia, 
corrected to 135 when hyperglycemic and normalized when 
normoglycemic. Asymptomatic.

CHRONIC ISSUES:

# CKD: Mild creatinine elevation on admission returned to 
baseline in mid-1s, likely was related to both hyperglycemia 
with osmotic diuresis and pre-renal etiology along with 
concurrent infection.

# DMII, poorly-controlled: Presentation of FSBG >500 likely 
secondary to both underlying cellulitis along with dietary 
non-compliance given his significant gatorade consumption. Did 
not have widened anion gap. Continued on his home Lantus 40 
units and covered with HISS while in-house.

# HLD: Continude home simvastatin.

# HTN: Continued home lisinopril and atenolol.

TRANSITIONAL ISSUES:
- outpatient podiatry follow-up for left foot cellulitis and 
right foot ulceration
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Glargine 40 Units Breakfast
2. Simvastatin 40 mg PO DAILY 
3. Clindamycin 150 mg PO Q8H 
4. Lisinopril 5 mg PO DAILY 
hold for SBP<100 
5. Atenolol 25 mg PO DAILY 
hold for SBP<100 or HR<60 
6. Sildenafil 100 mg PO 1 HOUR BEFORE SEXUAL ACTIVITY 
7. Aspirin 81 mg PO DAILY 
8. Fish Oil (Omega 3) 1000 mg PO BID 
9. Vitamin E 400 UNIT PO DAILY 
10. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. Glargine 40 Units Breakfast
4. Lisinopril 5 mg PO DAILY 
5. Simvastatin 40 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth twice a day 
Disp #*16 Capsule Refills:*0
8. Fish Oil (Omega 3) 1000 mg PO BID 
9. Sildenafil 100 mg PO 1 HOUR BEFORE SEXUAL ACTIVITY 
10. Vitamin E 400 UNIT PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Cellulitis, left lower extremity

Secondary Diagnosis:
Hyperglycemia >500, no anion gap
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your hospitalization. 
You were admitted on ___ for an infection of your left leg 
called cellulitis and very high blood sugar levels. You were 
given IV antibiotics initially (vancomycin) and then changed to 
an oral antibiotic called doxycycline. You were also given some 
extra insulin in the Emergency Department and started back on 
your home regimen. Your cellulitis has been significantly 
improving, and you are now safe to be discharged home.

Please be sure to take all of the antibiotic medicine and to 
follow-up with your doctors as ___.
 
Followup Instructions:
___